Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with no significant past medical history transferred from
___ for 1 week of diffuse lower abdominal pain,
fatigue, diarrhea, fever to 102 iso recent travel to ___.

He was in his usual state of health until one week ago, after he
arrived in ___ on ___, he reports fatigue, decreased
appetite, PO intake and notable ageusia. While in ___, he
was by the beach and traveled a lot through bushes. Three days
later, he was observed by friends to have fainted at a
restaurant, sitting outside in the heat. +LOC without 
headstrike.
+ dizziness and heartracing prior to episode. No CP, SOB
preceding the episode. No seizure-like activity, tongue biting,
urinary or fecal incontinence. He notes that a friend checked 
his
pulse during this episode, and it "felt normal." The following
day he had nausea, 3x foul-smelling non-bloody diarrhea and
sharp, focal abdominal pain underneath his umbilicus that comes
and goes with no obvious triggers. The pain is worsened by lying
on his stomach. During the past week, he also endorses muscle
aches, new headaches with photophobia without vision or hearing
changes, ___ L hip pain that does not limit his ambulation,
and gum pain with bleeding. He has noticed a mosquito bite on 
his
leg, although his symptoms began before he noticed the bite. He
denies neck stiffness, easy bruising, any other joint pain, or
new skin rashes. His last BM was yesterday. He continues to have
decreased PO intake, eating breakfast and a small lunch, even
though normally he has a very healthy diet and works out 6 days 
/
week.  He left ___ on ___ and went to urgent care the
following day for his abdominal pain. He was told to come back 
on
___ d/t WBC 2.1, Plt 121.

He went back to ___ yesterday, where for the first
time he was told he has a fever to 102 with WBC 1.9; he had not
noticed a fever prior to this. Per his report, CT abd was
performed and was unremarkable. They also sent stool samples and
cultures. Iso of lab findings of ANC of 954 and a fever, he was
transferred to the ___ ED.

Of note, he has also traveled to ___ and ___
in ___ and ___ in ___. He reports a male partner with
whom he is long distance (___), and has not been tested for
STIs recently. He denies a history of IV drug use. He has
tattoos, but has not received any abroad. None of his other
friends who traveled with him have had similar symptoms. He is
from ___, but has not noticed any ticks on him recently.

In the ED:  
Initial VS:  99.6, 124/76, 72, 15, 99% on RA
Exam:  In no acute distress, AAOx3, pain below umbilicus
Pertinent labs/imaging studies: BMP wnl, WBC 1.3, ANC 954, Plt
179, ALT 53, AST 42, 2+ poiklocytes and 2+ echinocytes, UA with
10 ketones. Lactate 1.2. B12, folate, lipase wnl. CXR
unremarkable.
Patient received:  None. Did not receive Tylenol at HV either.
Transfer VS:  97.6, 116/66, 88, 18, 100% on RA.
 
On the floor, he reports anxiety about his condition. He has
never been hospitalized before, and does not regularly see a
doctor. He is otherwise stable and comfortable.
 
Past Medical History:
None
 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================  
Vitals: ___ 1010 Temp: 98.3 AdultAxillary BP: 109/73 R
Sitting HR: 77 RR: 18 O2 sat: 99% O2 delivery: Ra 
General: alert, oriented, no acute distress  
Eyes: Sclera anicteric  
HEENT: No tender lymphadenopathy, MMM, oropharynx clear with no
obvious gingival erythema  
Neck: supple, no LAD  
Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
GI: soft, non-distended, mildly tender in the umbilical region.
bowel sounds present, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: motor function grossly normal 
Skin: No rashes. No skin breakdown.
Heme: No petechial. No ecchymosis.

DISCHARGE PHYSICAL EXAM
=======================  
Vitals:  Temp: 98.2 (Tm 98.6), BP: 110/70 (105-117/57-71), HR: 
78
(72-80), RR: 16 (___), O2 sat: 98% (98-99), O2 delivery: Ra 
General: alert, oriented, no acute distress  
Eyes: Sclera anicteric, no conjunctival injection  
HEENT: MMM, TTP over L mandibular retromolar pad with mucosal
overgrowth over most posterior mandibular molar; mild mucosal
erythema and with no fluctuance, blood crusted at L mandibular
dentogingival junction. No tenderness to palpation along 
external
mandible
Neck: supple, no cervical lymphadenopathy
Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi. Normal work of breathing.
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
GI: soft, non-distended, non-tender. bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: motor function grossly normal. 
Skin: No rashes. No skin breakdown.
Heme: No petechial. No ecchymosis.
 
Pertinent Results:
ADMISSION
=========
Notable labs:
WBC 1.3, ANC 640, Hgb 13.3, Plt 179
BMP WNL
AST 42, ALT 53, Tbili 0.5, Alk phos 63
Lipase 49
Lactate 1.2

DISCHARGE
==========
WBC 2.3, ANC 1360, Hgb 12.8, Plt 189
BMP WNL
AST 28, ALT 34, Tbili 0.5, Alk phos 61
CRP 0.9
VitB12, folate wnl

Parasite smear: neg x 2 (thick and thin)
HIV Ab: reactive
HIV1: indeterminate
HIV2: neg
HIV VL: 6.6 log 10
HIV-1 virtual phenotype: pending
HIV-1 NAT: pending
HAV Ab / IgM: neg
HBsAb: pos
HBsAg: pending
HBcAb: neg
CMV IgM/IgG/VL: pending
EBV IgM/IgG/VL: pending
Monospot test: Neg by latex agglutination. 
Anaplasma: neg
Lyme Ab: pending
Dengue IgM/IgG: pending
Arbovirus IgM/IgG: pending
Syphilis Ab: neg

UA: neg bld, neg nit, neg ___, 10 ketones, 4 WBCs

Stool O&P (___): pending
Stool cx (___): pending, no crypto or giardia
UCx (___): mixed flora
BCx (___): No growth

___:
-----
Stool cx (___): negative for Giardia, Shigella, Salmonella,
Campylobacter, Shiga toxin

IMAGING:
=========
CXR (___):
"FINDINGS:  
There is no focal consolidation.  No pleural effusion or
pneumothorax is seen. 
The cardiac and mediastinal silhouettes are unremarkable. 
IMPRESSION:  
No acute cardiopulmonary process."

CT A/p w/cont ___, ___:
No focal inflammatory or acute finding.
Several renal cortical hypodensities too small to fully 
characterize but likely cysts and /or angiomyolipomas
 
Brief Hospital Course:
___ with no prior medical hx presenting with fever, abdominal 
pain, diarrhea, leukopenia/moderate neutropenia, and mild 
transaminitis after recent travel to ___, found to have 
acute HIV1 seroconversion. 

# Fever:
# Abdominal pain:
# Diarrhea:
# Leukopenia with moderate neutropenia:
# Transaminitis:
# Acute HIV1 seroconversion:
Presented with one week of nausea, diarrhea, abdominal pain, and 
fever in setting of recent travel to ___ and ___ activity, 
referred to ___ ED from urgent care for neutropenia. ___ was 
640 on admission, but in the absence of fever, antibiotics were 
not initiated. A broad infectious w/u was sent, revealing acute 
HIV1 seroconversion, with HIV1 VL of 6.6 log 10. Acute HIV 
likely explains his presentation, but cannot r/o co-infection 
with CMV/EBV or a vector-borne viral infection, such as dengue, 
contracted during his recent travel. BCx NGTD, UCx mixed flora. 
Stool studies at urgent care negative (repeat stool cx this 
admission negative for crypto/giardia, culture and O&P pending 
at discharge). Monospot negative. CXR was negative, and CT A/P 
at urgent care prior to admission showed no acute findings 
(revealed several renal cortical hypodensities too small to 
fully characterize, likely cysts and /or angiomyolipomas). His 
symptoms resolved completely, as did his transaminitis. 
Neutropenia had improved to ANC 1360 on discharge. ID was 
consulted and recommended Biktarvy, initiated on discharge 
(bedside delivery). He was seen by SW and was noted to be coping 
well with his new diagnosis. He will f/u with Dr. ___ at 
___ on ___ for further management of HIV. CD4, HIV genotype, 
HBV serologies, CMV/EBV serologies and CMV VL, Arbovirus 
serologies, dengue serologies, and repeat stool cultures were 
pending at discharge.

# Pericoronitis of third molar #17:
Complained of L mandibular molar pain this admission. He was 
seen by ___ and found to have pericoronitis of the third molar 
(#17), likely exacerbated by neutropenia in setting of acute HIV 
as above. Per OMFS, initiated amoxicillin 500mg TID x 10d 
(through ___ and BID peridex rinses x 2 weeks. He will f/u with 
OMFS on ___ for consideration of tooth extraction.

TRANSITIONAL ISSUES
====================
[ ] F/u with Atrius ID on ___ for further management of acute 
HIV
[ ] Trend CBC w/diff to ensure resolution of neutropenia
[ ] Follow-up CD4 count, HIV virtual phenotype, CMV and EBV
IgM/IgG, Dengue IgM/IgG, Arbovirus IgM/IgG, Lyme Ab, CMV VL
pending at discharge
[ ] F/u BCx pending at discharge
[ ] Complete 10 day course of Amoxicillin 500mg PO TID for
pericoronitis (last day ___
[ ] Consider Hep A, yellow fever vaccine given frequent travel
[ ] Outpatient appointment for extraction of mandibular third
molars with OMFS on ___
[ ] Correct last name to ___ (not ___
___") in ___ system to allow syncing with 
___
records
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
- "Pure for men" Supplements
 
Discharge Medications:
1.  Amoxicillin 500 mg PO TID  
2.  Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY  
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
ACUTE HIV INFECTION
NEUTROPENIA
TRANSAMINITIS
PERICORONITIS

CHRONIC ISSUES
==============
NONE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you had abdominal pain, 
diarrhea, and low white blood count found at a clinic 
appointment at ___. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We performed a variety of blood and viral tests to figure out 
the cause of your symptoms. 
- Your lab findings were concerning for an acute HIV infection. 
- Your white blood count levels started to normalized and liver 
labs were normal by the time you were discharged. 
- You were also seen by tooth specialists for your tooth pain 
and put on antibiotics.
- While you were in the hospital, you spoke with the specialists 
in infectious disease and will follow up with them for your HIV 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow-up with the HIV specialists at ___
- Please follow-up with your PCP to make sure your white blood 
counts get back to normal
- Please schedule an outpatient appointment for extraction of 
mandibular third molars. Please call ___ at 7AM for 
same day appointment in ___ outpatient clinic. 
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___